US06506901B2
Step B: 4-Aminomethyl-1-pentyl-piperidine
Prepared from 1-pentyl-piperidine-4-carboxamide (3.0 g, 15.1 mmol) and LAH (1.14 g, 30.2 mmol) according to general the procedure used for Example 8 (Step B) to give 2.2 g of title compound as an oil.

reactant | 1-pentyl-piperidine-4-carboxamide | 15.1 mmol, 3.0 g | C(CCCC)N1CCC(CC1)C(=O)N | C11H22N2O
reactant | LAH | 30.2 mmol, 1.14 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 4-Aminomethyl-1-pentyl-piperidine | 2.2 g | NCC1CCN(CC1)CCCCC | C11H24N2
